US07935722B2
N-(2,2-Difluoro-6,7,8,9-tetrahydro-5H-1,3-dioxa-9-aza-cyclopenta[b]fluoren-6-yl)-isobutyramide
Add N-(4oxo-cyclohexyl)-isobutyramide (933 mg, 5.09 mmol) to a suspension of (2,2-difluoro-benzo[1,3]dioxol-5-yl)-hydrazine hydrochloride salt (1.14 g, 5.09 mmol), water (7 mL) and concentrated hydrochloric acid (3 mL). Heat the reaction to 90° C. for 12 h with stirring and cool to ambient temperature. Collect the resultant solid by vacuum filtration, rinse with water and place in a vacuum oven for 5 h to afford the subtitled compound (732 mg, 43%) as a tan solid. 1H NMR (300 MHz, CDCl3): δ 7.96 (br s, 1H), 7.00 (s, 1H), 6.98 (s, 1H), 5.54 (br d, J=7.5 Hz, 1H), 4.40 (br s, 1H), 3.03 (dd, J=15.3, 5.1 Hz, 1H), 2.88-2.71 (m, 2H), 2.51 (dd, J=15.3, 7.0 Hz, 1H), 2.33 (pentet, J=6.9 Hz, 1H), 2.12-1.91 (m, 2H), 1.16 (d, J=6.9 Hz, 6H).

reactant | N-(4oxo-cyclohexyl)-isobutyramide | 5.09 mmol, 933 mg | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
reactant | (2,2-difluoro-benzo[1,3]dioxol-5-yl)-hydrazine hydrochloride salt | 5.09 mmol, 1.14 g | Cl.FC1(OC2=C(O1)C=CC(=C2)NN)F
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 7 mL | O | H2O
product | N-(2,2-Difluoro-6,7,8,9-tetrahydro-5H-1,3-dioxa-9-aza-cyclopenta[b]fluoren-6-yl)-isobutyramide | 732 mg, 43% | FC1(OC=2C(=CC=3NC=4CCC(CC4C3C2)NC(C(C)C)=O)O1)F | C17H18F2N2O3
